US07488844B2
(ii) (2S)-3-(4-{2-[[4-(benzyloxy)benzyl](butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[[4-(benzyloxy)benzyl](butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (0.116 g, 0.21 mmol) in acetonitrile (10 mL) was added aqueous 0.10 M LiOH (5 mL) and the reaction mixture was stirred at room temperature overnight. The solvent volume was reduced in vacuo and the remaining aqueous phase was diluted with water and aqueous 1 M KOH and washed with diethyl ether (2×50 mL). The aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×50 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.070 g (63%) of a colourless oil.

reactant | ethyl(2S)-3-(4-{2-[[4-(benzyloxy)benzyl](butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.21 mmol, 0.116 g | C(C1=CC=CC=C1)OC1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCC)C=C1 | C33H41NO6
reactant | LiOH | 0.10 M, 5 mL | [Li+].[OH-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | KOH | 1 M | [OH-].[K+]
product | (2S)-3-(4-{2-[[4-(benzyloxy)benzyl](butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 0.070 g, 63% | C(C1=CC=CC=C1)OC1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)=O)CCCC)C=C1 | C31H37NO6
